US07767680B2
A mixture of 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid ethyl ester (0.6 g, 10.96 mmol), and solid NaOH (2 g, 50 mmol) in ethanol (5 mL) and water (1 mL) was refluxed for 1 h, then cooled to room temperature. The solvent was removed under reduced pressure, and the residue was acidified with a 6N HCl solution. Then, the product was extracted with EtOAC (3×25 mL) and the organic extracts were dried and concentrated to give 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid (0.43 g, 78%) as white solid. Mass Spec. LCMS 318 (M+1).

reactant | 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid ethyl ester | 10.96 mmol, 0.6 g | C(C)OC(=O)C=1C(=NC(=NC1C)N1CCOCC1)C1=C(C=CC=C1)F | C18H20FN3O3
reactant | NaOH | 50 mmol, 2 g | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 4-(2-fluorophenyl)-6-methyl-2-morpholin-4-yl-pyrimidine-5-carboxylic acid | 0.43 g, 78% | FC1=C(C=CC=C1)C1=NC(=NC(=C1C(=O)O)C)N1CCOCC1 | C16H16FN3O3
